US09102591B2
2,3-Dichloro-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide
From 2,3-dichlorobenzoic acid and C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine. LCMS (MH+): m/z=376.9, tR (minutes, Method A)=0.69

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine | CN1CCC(CC1)(C1=CC=CC=C1)CN | C13H20N2
product | 2,3-Dichloro-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)C)C2=CC=CC=C2)C=CC=C1Cl | C20H22Cl2N2O
